2187-01-02 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Found down w/ altered mental status
   24 Hour Events:
 EKG - At [**2187-1-2**] 05:30 AM
   - intermittently in SVT when agitated - goes abruptly up to 140s,
   appears regular.
   - Insulin gtt stopped for hypoglycemia, and placed on D5.
   - Remains altered, denies family or friend contacts.
   Allergies:
   [**Name2 (NI) 1928**] dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-2**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 86 (82 - 134) bpm
   BP: 147/72(89) {121/62(83) - 165/120(136)} mmHg
   RR: 25 (21 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  2,098 mL
                                                                  2,459 mL
   PO:
             TF:
   IVF:
                                                                  2,098 mL
                                                                  2,459 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    500 mL
   Urine:
                                                                  1,130 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                  1,959 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   11.1 g/dL
   306 mg/dL
   4.2 mg/dL
   25 mEq/L
   4.5 mEq/L
   73 mg/dL
   100 mEq/L
   140 mEq/L
   34.1 %
   19.6 K/uL
        [image002.jpg]
                            [**2187-1-1**]  06:06 PM
                            [**2187-1-1**]  10:13 PM
                            [**2187-1-2**]  03:36 AM
   WBC
   19.6
   Hct
   34.1
   Plt
   148
   Cr
   4.8
   3.6
   4.2
   TropT
   0.13
   0.11
   Glucose
   363
   91
   306
   Other labs: PT / PTT / INR:11.4/27.7/0.9, CK / CKMB /
   Troponin-T:[**Numeric Identifier 9468**]/116/0.11, ALT / AST:179/921, Alk Phos / T
   Bili:131/0.7, Lactic Acid:2.9 mmol/L, LDH:1386 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.9 mg/dL, PO4:6.2 mg/dL
   Imaging: [**1-2**] CXR: slight hilar fullness. Costophrenic angles sharp.
   Microbiology: Urine cx pending
   MRSA screen pending
   Assessment and Plan
 HIGH RISK FOR FALL
 IMPAIRED HEALTH MAINTENANCE
 DIABETIC KETOACIDOSIS (DKA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TRAUMA, S/P
   80M with history of DM on insulin, presenting after found down with
   hyperglycemia, rhabdo, ARF, and acute on chronic subdural hematoma.
   .
   # Hyperglycemia/diabetes.  Does not have ketones, making this
   hyperosmolar non-ketotic syndrome.  Glucoses normalized with the
   insulin drip and we are now attempting to transition back to SQ
   insulin.  Unclear what the precipitating event for his hyperglycemia
   was, or whether the HONK is causing his altered mental status.
   - Check labs Q8hrs today to follow in the setting of massive
   electrolyte shifts.  Now replete for K<3.5 only because of renal
   failure.
   - Received total of 30 units of Lantus this morning, which we will
   supplement with a sliding scale.
   - Follow finger sticks Q2hrs but avoid stacking insulin doses.
   - Hold oral antidiabetic meds for now.
   .
   # Rhabdomyolysis.  Highest CK to date is [**Numeric Identifier **], which is almost
   definitely due to the patient being found down for an unclear amount of
   time.  His venous pH was reassuring (slightly alkalotic as desired).
   We will begin today be being aggressive with our rehydration at 500ccs
   an hour, monitoring closely for signs of hypoxia, which would suggest
   pulmonary congestion.
   - hold home statin.
   - continue to keep patient slightly alkalotic with 1/2NS plus 1.5 amp
   bicarb gtt at 500cc/hour.
   - Goal UOP 300cc/hr.
   .
   # ARF.  Almost definitely due to rhabdomyolysis and dehydration as
   above, which should improve with aggressive rehydration.  Given his
   severe diabetes, he may have a chronic component as well.
   - Replete volume deficit; goal UOP as above.
   - Renal following.
   .
   # Altered mental status.  Likely multifactorial with subdural,
   electrolyte and metabolic disturbances.  We do not know his baseline.
   We should monitor for stabilization of his subdural (largely chronic)
   and try to find a contact for him who can tell us his baseline mental
   status.
   - repeat head CT this morning
   - correct lytes as above.
   - f/u TSH, B12, folate, RPR, tox screens.
   - repeat UA and sediment.
   - social work consult to identify social contacts.
   .
   # Anion gap metabolic acidosis.  Anion gap 20 on admission, improved to
   15 this morning.  Likely primarily due to acute renal failure.
   - Repeat urinalysis.
   - Management of renal failure as above.
   .
   # Subdural hematoma.  Acute on chronic, though acute component small.
   Unclear if was result of fall, cause of fall, or unrelated.
   Neurosurgery consulted.
   - Next head CT 24 hours after first.
   - Hold ASA.
   .
   # Possible C-spine trauma: there are OSH CT c-spine images that were
   seen here, but there is not a documented read.  We will follow-up with
   neurosurg that these images are normal, and then clear the patient
   clinically.
   .
   # Tachycardia: Patient has intermittent SVT, seems less likely sinus
   rhythm as he changes abruptly between rhythms.  First appeared to be
   linked to agitation, but not necessarily concordant.  Could be afib,
   though the rhythm appears regular on strips.
   - repeat ECG.
   - start lopressor 2.5mg Q6hrs and titrate up if tolerated.  Convert to
   POs once patient able.
   .
   # Abnormal LFTs.  Likely representative of muscle breakdown.
   - f/u final abdominal ultrasound read.
   .
   # Elevated troponin.  In setting of renal failure and rhabdo, both
   which may be contributing. ECG without concerning findings at OSH and
   here.
   - Continue to trend.
   .
   # Elevated lipase.  Abdominal ultrasound prelim unremarkable, and
   patient has no abdominal pain on exam.  Not clinically important at
   this time.
   # BPH. Alpha blockers can affect mental status and patient has foley in
   place.  Will hold home alpha blocker for now.
   .
   FEN: IVFs as above, replete electrolytes, regular diet when safe
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Presumed full
   Communication: Patient, no known contacts -> social work consult.
   Disposition: to the floor late today or tomorrow.  Still requiring
   large amounts of fluids and becomes intermittently tachycardic.

2187-01-02 09:43:00 Physician Attending Progress Note
Chief Complaint: ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man that was found down - found to have HONK, rhabdomyolysis,
   ARF.   Overnight on
   insulin drip and became euglycemic and placed on long acting insulin.
   Mild hypoglycemia - got D5.
   Improving renal function.  Intermittent SVT.
   24 Hour Events:
 EKG - At [**2187-1-2**] 05:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-1-2**] 07:00 AM
   Other medications:
   SSI and fixed dose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-2**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 110 (82 - 134) bpm
   BP: 149/69(88) {121/62(83) - 165/120(136)} mmHg
   RR: 20 (20 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  4,098 mL
                                                                  3,593 mL
   PO:
             TF:
   IVF:
                                                                  2,098 mL
                                                                  3,593 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    850 mL
   Urine:
                                                                  1,130 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,968 mL
                                                                  2,743 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   148 K/uL
   179 mg/dL
   3.9 mg/dL
   24 mEq/L
   4.5 mEq/L
   67 mg/dL
   106 mEq/L
   143 mEq/L
   34.1 %
   19.6 K/uL
        [image002.jpg]
                            [**2187-1-1**]  06:06 PM
                            [**2187-1-1**]  10:13 PM
                            [**2187-1-2**]  03:36 AM
                            [**2187-1-2**]  08:05 AM
   WBC
   19.6
   Hct
   34.1
   Plt
   148
   Cr
   4.8
   3.6
   4.2
   3.9
   TropT
   0.13
   0.11
   Glucose
   363
   91
   306
   179
   Other labs: PT / PTT / INR:11.4/27.7/0.9, CK / CKMB /
   Troponin-T:[**Numeric Identifier 9468**]/116/0.11, ALT / AST:179/921, Alk Phos / T
   Bili:131/0.7, Lactic Acid:2.9 mmol/L, LDH:1386 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 CARDIAC DYSRHYTHMIA OTHER
 RHABDOMYOLYSIS
 HIGH RISK FOR FALL
 IMPAIRED HEALTH MAINTENANCE
 DIABETIC KETOACIDOSIS (DKA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TRAUMA, S/P
   HONK:  Blood sugar much improved.  Na has normalized.  Ketones on U/A
   were negative so DKA unlikely.
   Can manage with lantus and fingersticks.
   SVT:  likely has ectopic atrial focus that is intermittent.  Can start
   a beta blocker.
   Rhabodmyolysis:  Still with rising CK.  Continue agressive IVF with
   HCO.
   Acute renal failure:  creatinine is improving.  U/O is improving up to
   200cc per hour.
   SDH:  repeat Head CT today to follow.
   Trauma:  will follow up on neck CT results and then clear C-spine
   today.
   leukocytosis:  blood cx today.
   AG acidosis:  due to lactic acidosis and renal failure.  Improving.
   Elevated LFTs:  likely due to shock liver.  U/S was negative.
   ICU Care
   Nutrition:
   Comments: Will try to feed once neck is cleared.
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-1-2**] 01:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : maybe transfer to the floor later if stable
   Total time spent: 35 minutes
   ------ Protected Section ------
   Repeat Head CT showed interventricular hemorrhage, discussed with
   neurosurgery by housestaff.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2187-1-2**] 15:55 ------

2187-01-03 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Acute renal failure/altered mental status
   24 Hour Events:
   - Repeat EKG yesterday
   - B12, folate, TSH: normal
   - Electrolytes, CK, LFT's continue to improve with fluids, but still
   high.
   - Renal recs: increase fluids to UOP >150/hr
   - NSurg recs: repeat head CT in am to see if intraventricular bleed is
   improving.
   - Final read of RUQ u/s: what could be seen was normal.
   - C-collar d/c'd and diet advanced (renal)
   - Don't restart alpha blocker, already has Foley anyways
   - Started Metoprolol 2.5mg IV q6hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-1-3**] 12:00 AM
   Metoprolol - [**2187-1-3**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-3**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 70 (68 - 125) bpm
   BP: 150/88(103) {139/56(72) - 170/90(104)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  7,823 mL
                                                                  2,570 mL
   PO:
             TF:
   IVF:
                                                                  7,823 mL
                                                                  2,570 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                  1,355 mL
   Urine:
                                                                  3,705 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,118 mL
                                                                  1,215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GEN: Sleeping but easily arousable, NAD, denies pain.  Face slightly
   asymmetric after lying on right side.  Does not have dentures in.
   Midline lipoma on forehead.
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: soft, NTND
   EXTR: no edema, warm and well-perfused.
   NEURO/MENTAL STATUS: Alert, interactive, oriented to year [**2186**] but not
   where he is.
   Labs / Radiology
   113 K/uL
   10.2 g/dL
   137 mg/dL
   2.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   51 mg/dL
   110 mEq/L
   143 mEq/L
   30.0 %
   9.5 K/uL
        [image002.jpg]
                            [**2187-1-1**]  06:06 PM
                            [**2187-1-1**]  10:13 PM
                            [**2187-1-2**]  03:36 AM
                            [**2187-1-2**]  08:05 AM
                            [**2187-1-2**]  01:41 PM
                            [**2187-1-2**]  09:00 PM
                            [**2187-1-3**]  03:44 AM
   WBC
   19.6
   9.5
   Hct
   34.1
   30.0
   Plt
   148
   113
   Cr
   4.8
   3.6
   4.2
   3.9
   3.5
   3.2
   2.8
   TropT
   0.13
   0.11
   0.05
   Glucose
   363
   91
   [**Telephone/Fax (3) 9494**]
   175
   137
   Other labs: PT / PTT / INR:11.4/27.7/0.9, CK / CKMB /
   Troponin-T:[**Numeric Identifier 9495**]/116/0.05, ALT / AST:171/712, Alk Phos / T Bili:88/0.6,
   Differential-Neuts:77.7 %, Lymph:15.3 %, Mono:6.5 %, Eos:0.3 %, Lactic
   Acid:2.9 mmol/L, LDH:1386 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.6
   mg/dL
   Imaging:
   N/C CT Head:
   1. Stable bilateral frontoparietal subdural collections.
   2. New intraventricular hemorrhage layering the left occipital [**Doctor Last Name **] and
   new tentorium hemorrhage.
   3. Questionable high attenuation at interpeduncular cistern, which
   could be consistent with a new hemorrhage or artifact.
   4. Unchanged calcifications seen, more prominent at the basal ganglia
   and cerebellum bilaterally. Differential diagnosis should include
   Fahr's disease.
   Followup is recommended to assess progression of subdural hematoma and
   new hemorrhage foci.
   [**1-2**] CXR: moderate cardiomegaly.
   [**1-2**] U/S: limited, normal.
   Microbiology: [**1-1**] Blood and urine cx pending
   Assessment and Plan
 CARDIAC DYSRHYTHMIA OTHER
 RHABDOMYOLYSIS
 HIGH RISK FOR FALL
 IMPAIRED HEALTH MAINTENANCE
 DIABETIC KETOACIDOSIS (DKA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TRAUMA, S/P
   80M with history of DM on insulin, presenting after found down with
   hyperglycemia, rhabdo, ARF, and acute-on-chronic subdural hematoma.
   .
   # Hyperglycemia/diabetes.  Does not have ketones, making this
   hyperosmolar non-ketotic syndrome.  Glucoses normalized with the
   insulin drip and we are now attempting to transition back to SQ
   insulin.  Unclear what the precipitating event for his hyperglycemia
   was, or whether the HONK is causing his altered mental status.
   - Check labs Q8hrs today to follow in the setting of massive
   electrolyte shifts.  Now replete for K<3.5 only because of renal
   failure.
   - Received total of 30 units of Lantus this morning, which we will
   supplement with a sliding scale.
   - Follow finger sticks Q2hrs but avoid stacking insulin doses.
   - Hold oral antidiabetic meds for now.
   .
   # Rhabdomyolysis.  Highest CK to date is [**Numeric Identifier **], which is almost
   definitely due to the patient being found down for an unclear amount of
   time.  His venous pH was reassuring (slightly alkalotic as desired).
   We will begin today be being aggressive with our rehydration at 500ccs
   an hour, monitoring closely for signs of hypoxia, which would suggest
   pulmonary congestion.
   - Check one set of pm lytes
   - Check PM CK
   - hold home statin.
   - continue to keep patient slightly alkalotic with 1/2NS plus 1.5 amp
   bicarb gtt at 400cc/hour.
   - Goal UOP >150 cc/hour
   .
   # ARF.  Almost definitely due to rhabdomyolysis and dehydration as
   above, which should improve with aggressive rehydration.  Given his
   severe diabetes, he may have a chronic component as well. Improving.
   - Replete volume deficit; goal UOP as above.
   - Renal following.
   .
   # Altered mental status.  Likely multifactorial with subdural,
   electrolyte and metabolic disturbances.  We do not know his baseline.
   We should monitor for stabilization of his subdural (largely chronic)
   and try to find a contact for him who can tell us his baseline mental
   status. Improving.
   - correct lytes as above.
   - f/u TSH, B12, folate, RPR, toxicology screens.
   - repeat UA and sediment.
   - social work consult to identify social contacts and get a sense for
   patient
s baseline mental status.
   - speech & swallow consult today
   .
   # Anion gap metabolic acidosis.  Anion gap 20 on admission, improved to
   15 this morning.  Likely primarily due to acute renal failure.
   - Repeat urinalysis.
   - Management of renal failure as above.
   .
   # Subdural hematoma.  Acute on chronic, though acute component small.
   Unclear if was result of fall, cause of fall, or unrelated.
   Neurosurgery consulted.
   - Next head CT 24 hours after first.
   - Hold ASA.
   .
   # Hct and platelet decrease
 appears dilutional.
   - Check 3PM CBC
   .
   # Possible C-spine trauma: there are OSH CT cervical spine images that
   were seen here, but there is not a documented read.  We will follow-up
   with neurosurgery that these images are normal, and then plan to clear
   the patient clinically.
   .
   # Tachycardia: Patient has intermittent SVT, seems less likely sinus
   rhythm as he changes abruptly between rhythms.  First appeared to be
   linked to agitation, but not necessarily concordant.  Could be afib,
   though the rhythm appears regular on strips.
   - repeat ECG.
   - start Lopressor 2.5mg Q6hrs and titrate up if tolerated.  Convert to
   POs once patient able.
   .
   # Abnormal LFTs.  Likely representative of muscle breakdown.
   - f/u final abdominal ultrasound read.
   .
   # Elevated troponin.  In setting of renal failure and rhabdomyolysis,
   both which may be contributing. ECG without concerning findings at OSH
   and here.
   - Continue to trend.
   .
   # Elevated lipase.  Abdominal ultrasound prelim unremarkable, and
   patient has no abdominal pain on exam.  Not clinically important at
   this time.
   # BPH. Alpha blockers can affect mental status and patient has foley in
   place.  Will hold home alpha blocker for now.
   .
   FEN: IVFs as above, replete electrolytes; had difficulty taking with
   ice chips this morning, so place speech & swallow consult today
   Prophylaxis: Subcutaneous heparin
   Access: Peripherals
   Code:  Presumed full
   Communication: Patient, no known contacts -> social work consult, f/u.
   Disposition: To the floor later today = call-out.

2187-01-03 11:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man found down, admitted with HONK, ICH, ARF.  Now improved.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-1-3**] 12:00 AM
   Metoprolol - [**2187-1-3**] 06:04 AM
   Other medications:
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2187-1-3**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 65 (65 - 113) bpm
   BP: 128/54(70) {128/54(70) - 170/90(104)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  7,823 mL
                                                                  3,947 mL
   PO:
             TF:
   IVF:
                                                                  7,823 mL
                                                                  3,947 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                  2,530 mL
   Urine:
                                                                  3,705 mL
                                                                  2,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,118 mL
                                                                  1,417 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, right eye hematoma
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.2 g/dL
   113 K/uL
   137 mg/dL
   2.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   51 mg/dL
   110 mEq/L
   143 mEq/L
   30.0 %
   9.5 K/uL
        [image002.jpg]
                            [**2187-1-1**]  06:06 PM
                            [**2187-1-1**]  10:13 PM
                            [**2187-1-2**]  03:36 AM
                            [**2187-1-2**]  08:05 AM
                            [**2187-1-2**]  01:41 PM
                            [**2187-1-2**]  09:00 PM
                            [**2187-1-3**]  03:44 AM
   WBC
   19.6
   9.5
   Hct
   34.1
   30.0
   Plt
   148
   113
   Cr
   4.8
   3.6
   4.2
   3.9
   3.5
   3.2
   2.8
   TropT
   0.13
   0.11
   0.05
   Glucose
   363
   91
   [**Telephone/Fax (3) 9494**]
   175
   137
   Other labs: PT / PTT / INR:11.4/27.7/0.9, CK / CKMB /
   Troponin-T:[**Numeric Identifier 9495**]/116/0.05, ALT / AST:171/712, Alk Phos / T Bili:88/0.6,
   Differential-Neuts:77.7 %, Lymph:15.3 %, Mono:6.5 %, Eos:0.3 %, Lactic
   Acid:2.9 mmol/L, LDH:1386 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 CARDIAC DYSRHYTHMIA OTHER
 RHABDOMYOLYSIS
 HIGH RISK FOR FALL
 IMPAIRED HEALTH MAINTENANCE
 DIABETIC KETOACIDOSIS (DKA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TRAUMA, S/P
   Altered mental status:  Improving.  Unclear if he will be able to take
   care of himself at home he may have fallen multiple times.
   Rhabdo:  continue aggressive IVF
   ARF:  Improving with good urine output.
   DM:  better BS control.
   lopressor for ectopic atrial tachycardia
   Will need S+S eval.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-1-2**] 01:48 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes